US08067408B2
The 3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-5-methylbenzoic acid (931 mg, 2 mmol) was partially dissolved in the dichloromethane (50 mL), and HBTU (758 mg, 2.000 mmol) was added followed sequentially by [(3-bromo-4-chlorophenyl)methyl]amine (441 mg, 2.000 mmol), and TEA (0.558 mL, 4.00 mmol). The mixture was allowed to stir under argon overnight at room temperature. The solvent was removed on a rotavap. The residue was taken up in EtOAc (100 mL) and washed 3× with water (50 mL) (emulsion, a few drops of 1N NaOH helps break emulsion), 1× with brine. A substantial amount of solid would not dissolve in either the EtOAc or aqueous phases. This was filtered off and set aside. The organic phase was dried over anhydrous Na2SO4, filtered and evaporated to give N-[(3-bromo-4-chlorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-5-methyl-1,3-benzenedicarboxamide (349 mg, 0.324 mmol, 16.20% yield). The solid that had been set aside was washed with water and ethyl acetate and dried under vacuum to give another batch of N-[(3-bromo-4-chlorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-5-methyl-1,3-benzenedicarboxamide (993.7 mg, 1.488 mmol, 74.4% yield) as a white solid. LC-MS m/z 667.2 (M+H)+, 1.02 min (ret time); mp 212-214° C.

reactant | 3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-5-methylbenzoic acid | 2 mmol, 931 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C=2C=C(C(=O)O)C=C(C2)C)CC | C25H31N5O4
reactant | HBTU | 2.000 mmol, 758 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | [(3-bromo-4-chlorophenyl)methyl]amine | 2.000 mmol, 441 mg | BrC=1C=C(C=CC1Cl)CN | C7H7BrClN
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N-[(3-bromo-4-chlorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-5-methyl-1,3-benzenedicarboxamide | 0.324 mmol, 349 mg, 16.20% yield | BrC=1C=C(C=CC1Cl)CNC(=O)C1=CC(=CC(=C1)C)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C32H36BrClN6O3
